US08871753B2
Step F: 14-Benzoyl-6-chloro-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene
To a stirring solution of 6-chloro-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene (20.0 mg, 0.0618 mmol) in N,N-dimethylformamide (0.24 mL) was added triethylamine (17.2 μL), followed by the addition of benzoyl chloride (17.4 mg, 0.12 mmol). The resultant solution was stirred at rt for 30 min. The mixture was quenched with H2O and concentrated. The residue was purified by silica gel column chromatography to give the desired product as an off-white powder (11 mg, 42%). LCMS for C24H19ClN5O (M+H)+: m/z=428.1. 1H NMR (300 MHz, DMSO-d6): δ 9.42 (s, 1H), 9.11 (s, 1H), 8.12 (s, 2H), 7.82 (s, 1H), 7.25 (m, 4H), 7.15 (m, 4H), 7.03 (m, 3H), 4.86 (m, 2H).

reactant | 6-chloro-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene | 0.0618 mmol, 20.0 mg | ClC=1C=NC=2NC=3C=CC=C(CNC4=CC=CC(NC1N2)=C4)C3 | C17H14ClN5
reactant | triethylamine | 17.2 μL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.12 mmol, 17.4 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | N,N-dimethylformamide | 0.24 mL | CN(C=O)C | C3H7NO
product | 14-Benzoyl-6-chloro-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene | 11 mg, 42% | C(C1=CC=CC=C1)(=O)N1C2=CC=CC(NC3=C(C=NC(NC=4C=CC=C(C1)C4)=N3)Cl)=C2 | C24H18ClN5O
